US09023858B2
7-methoxy-2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
A mixture of 7-methoxy-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one (1.2 g), 1M aqueous sodium hydrogen carbonate solution (3.1 ml), iodomethane (0.98 ml) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 1 hr. The reaction mixture was allowed to be cooled, diluted with ethyl acetate (100 ml), washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (1.24 g).

reactant | 7-methoxy-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrido[2,3-d]pyrimidin-4(1H)-one | 1.2 g | COC=1C=CC2=C(NC(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)=S)N1 | C16H12F3N3O3S
reactant | sodium hydrogen carbonate | 1M, 3.1 ml | C(O)([O-])=O.[Na+]
reactant | iodomethane | 0.98 ml | IC | CH3I
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-methoxy-2-(methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 1.24 g | COC=1C=CC2=C(N=C(N(C2=O)C2=CC=C(C=C2)OCC(F)(F)F)SC)N1 | C17H14F3N3O3S
